US04126687
A mixture of 5.6 parts of 6-chloro-1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 4.34 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 6.4 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled and water is added. The undissolved product is filtered off and crystallized from a mixture of N,N-dimethylformamide and water. It is filtered off again, boiled in methanol, filtered off while hot and dried, yielding 5.1 parts of 6-chloro-1,3-dihydro-1-{3-[4-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-1-piperidinyl]propyl}-2H-benzimidazol-2-one; mp. 273° C.

reactant | 6-chloro-1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClC=1C=CC2=C(N(C(N2)=O)CCCCl)C1 | C10H10Cl2N2O
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-chloro-1,3-dihydro-1-{3-[4-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-1-piperidinyl]propyl}-2H-benzimidazol-2-one | ClC=1C=CC2=C(N(C(N2)=O)CCCN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C1 | C22H24ClN5O2
